US09302989B2
N-[4-(1-benzoylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.29 (s, 1H), 7.47-7.50 (m, 2H), 7.41-7.47 (m, 5H), 7.34-7.38 (m, 2H), 7.29-7.33 (m, 2H), 7.16-7.18 (m, 2H), 4.75-4.76 (bs, 4H), 4.54-4.64 (m, 1H), 3.57-3.74 (m, 1H), 3.02-3.21 (m, 1H), 2.79-2.93 (m, 1H), 2.75 (tt, J=11.9, 3.4 Hz, 1H), 1.68-1.88 (m, 2H), 1.54-1.63 (m, 2H); MS (ESI(−)) m/e 424 (M−H)−.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H23N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-benzoylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C27H27N3O2
